US04284574
2,2-Bis(4-(3-butoxy-2-hydroxypropyloxy)-3,5-dibromophenyl)propane
2,2-Bis(3,5-dibromo-4-hydroxyphenyl)propane (i.e., tetrabromobisphenol A) (136 g; 0.25 mole), butyl glycidyl ether having an epoxide content of 7.45 equiv./kg (67.1 g; 0.5 equiv.), and benzyltrimethylammonium chloride (0.5 g) were stirred at 120° C. for 1 hour and at 150° C. for 41/2 hours. The mixture had a residual epoxide content of 0.01 equiv./kg, indicating that the reaction was substantially complete.

reactant | 2,2-Bis(3,5-dibromo-4-hydroxyphenyl)propane | 0.25 mole, 136 g | BrC=1C=C(C=C(C1O)Br)C(C)(C)C1=CC(=C(C(=C1)Br)O)Br | C15H12Br4O2
reactant | butyl glycidyl ether | C(C1CO1)OCCCC | C7H14O2
catalyst | benzyltrimethylammonium chloride | 0.5 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 2,2-Bis(4-(3-butoxy-2-hydroxypropyloxy)-3,5-dibromophenyl)propane | C(CCC)OCC(COC1=C(C=C(C=C1Br)C(C)(C)C1=CC(=C(C(=C1)Br)OCC(COCCCC)O)Br)Br)O | C29H40Br4O6
